US06509331B1
Step A: Synthesis of 3-(Benzoxycarbonyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one
To a solution of 3-(benzoxycarbonyl)amino-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepin-2-one (3.7 g, 9.61 mmol) in 40 mL of anhydrous DMF at 0° C. was added potassium tert-butoxide (1.6 g, 14.4 mmol) in one portion. The reaction mixture was stirred 20 m. and 4,4,4-trifluoro-1-bromobutane (Lancaster; Windham, N.H.; 2.6 g, 13.4 mmol) was added. The reaction mixture was warmed to room temperature over 30 min. and the n diluted with 100 mL of water and 200 mL of methylene chloride. The layers were separated. The organic layer was extracted with water and dried over sodium sulfate. Purification of the crude product by silica gel column chromatography (0-3% ethyl acetate/methylene chloride) gave 1.52 g (32%) of an off white foam.

reactant | 3-(benzoxycarbonyl)amino-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepin-2-one | 9.61 mmol, 3.7 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C23H19N3O3
reactant | potassium tert-butoxide | 14.4 mmol, 1.6 g | CC(C)([O-])C.[K+]
reactant | 4,4,4-trifluoro-1-bromobutane | 13.4 mmol, 2.6 g | FC(CCCBr)(F)F | C4H6BrF3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(Benzoxycarbonyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCCC(F)(F)F)=O | C27H24F3N3O3
